US06924374B2
1-Isopropyl-4-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine
Beginning with 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine and isopropylbromide, the title compound was recovered by the procedure described in Example 2; MS m/z (rel. intensity, 70 eV) 290 (M+, 30), 275 (bp), 190 (20), 84 (23), 56 (64).

reactant | 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | FC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | isopropylbromide | C(C)(C)Br | C3H7Br
product | 1-Isopropyl-4-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | C(C)(C)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)F | C14H18F4N2
